US04348223
(a) Preparation of 1-(ethoxymethyl)-3-nitrobenzene
A 300-milliliter flask equipped with a reflux condenser and a magnetic stirring bar was charged with 17.1 grams (0.1 mole) of 3-nitrobenzyl chloride in 150 milliliters of ethanol. To this stirred solution was added 6.8 grams (0.1 mole) of sodium ethoxide. The reaction mixture was heated to reflux and maintained at reflux for 21 hours. The reaction mixture was then cooled and concentrated on a rotary evaporator at 55° C. The residue was suspended in 250 milliliters of methylene chloride and transferred to a separatory funnel wherein it was washed consecutively with 100 milliliter portions of water, 1 Normal hydrochloric acid, water, 1 Normal sodium hydroxide, and water, respectively. The organic phase was separated, dried over magnesium sulfate, and concentrated on a rotary evaporator at 55° C., leaving a dark brown liquid. The dark brown liquid was charged to a distillation flask and distilled at a pressure of 2.0 millimeters of mercury. A main fraction (14 grams) was collected, said fraction having a boiling point of 112°-115° C. at 2 mm Hg pressure. This main fraction was identified by NMR spectroscopy as 1-(ethoxymethyl)-3-nitrobenzene.

reactant | 3-nitrobenzyl chloride | 0.1 mole, 17.1 grams | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | sodium ethoxide | 0.1 mole, 6.8 grams | [O-]CC.[Na+]
solvent | ethanol | 150 milliliters | C(C)O | C2H6O
product | 1-(ethoxymethyl)-3-nitrobenzene | C(C)OCC1=CC(=CC=C1)[N+](=O)[O-] | C9H11NO3
